** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/testbenches/tb_dac.sch
**.subckt tb_dac
x3 vdacp vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 GND VDD sample vdacn net2 net1 d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 dac cu=10f
V1 vdd GND 1.8
V2 vcm GND .9
x2 b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 GND VDD sample d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 GND clk rst eoc logic
V3 net1 net2 0.4
V4 clk GND PULSE( 0 1.8 7n 10p 10p {period/2} {period})
V6 comp_in GND PULSE( 0 1.8 5n 10p 10p 20n 40n)
V7 sample_d GND PULSE( 0 1.8 0 10p 10p 6n 10n 1)
V5 rst GND PULSE(0 1.8 0 10p 10p 1n 2n 1)
XM2 GND vdacp GND GND sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM1 GND vdacn GND GND sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
V8 net2 GND 0.7
**** begin user architecture code


.param temp=27
.param period = 1n
.param stop={20*period}
.param ro = 500
.param W_P = 1.0u
.param L_P = 0.13u
.param W_N = 1.0u
.param L_N = 0.13u
.options savecurrents klu method=gear reltol=1e-2 abstol=1e-15 gmin=1e-10
.control

* Transient Analysis
tran 100p 50n

plot {d0} {d1 + 4} {d2 + 8} {d3 + 12} {d4 + 16} {d5 + 20} {d6 + 24} {d7 + 28} {d8 + 32} {d9 + 36} {d10 + 40} {d11 + 44}
plot {b0} {b1 + 4} {b2 + 8} {b3 + 12} {b4 + 16} {b5 + 20} {b6 + 24} {b7 + 28} {b8 + 32} {b9 + 36} {b10 + 40} {b11 + 44}
plot {clk} {comp_in + 2} {sample + 4}
plot vdacp vdacn
plot {vdacp-vdacn}

.endc




** IHP models
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice


**** end user architecture code
**.ends

* expanding   symbol:  dac_icms_cell/dac.sym # of pins=32
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sch
.subckt dac vdacn vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample_pin vdacp vinp vinn D9 D7 D0 D11 D3 D4 D2 D1 D8 D6 D5
+ D10  cu=5u
*.ipin D0
*.ipin b0
*.iopin vinp
*.iopin vcm
*.ipin sample_pin
*.iopin vinn
*.iopin vdacp
*.iopin vdacn
*.iopin VSS
*.iopin VDD
*.ipin D1
*.ipin b1
*.ipin D2
*.ipin b2
*.ipin D3
*.ipin b3
*.ipin D4
*.ipin b4
*.ipin D5
*.ipin b5
*.ipin D6
*.ipin b6
*.ipin D7
*.ipin b7
*.ipin D8
*.ipin b8
*.ipin D9
*.ipin b9
*.ipin D10
*.ipin b10
*.ipin D11
*.ipin b11
x14 VDD D0 VSS vdacn b0 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=32
x18 VDD D0 VSS vdacp b0 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=32
C1 vdacp2 vdacn cu m=1
C4 vdacp2 vcm cu m=1
x1 VDD D1 VSS vdacn b1 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=16
x2 VDD D2 VSS vdacn b2 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=8
x3 VDD D3 VSS vdacn b3 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=4
x4 VDD D4 VSS vdacn b4 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=2
x5 VDD D5 VSS vdacn b5 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=1
x6 VDD D6 VSS vdacp2 b6 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=32
x7 VDD D7 VSS vdacp2 b7 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=16
x8 VDD D8 VSS vdacp2 b8 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=8
x9 VDD D9 VSS vdacp2 b9 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=4
x11 VDD D10 VSS vdacp2 b10 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=2
x12 VDD D11 VSS vdacp2 b11 vcm vinn a_sample a_sample_n b_sample b_sample_n unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=1
x13 VDD D1 VSS vdacp b1 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=16
x15 VDD D2 VSS vdacp b2 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=8
x16 VDD D3 VSS vdacp b3 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=4
x19 VDD D4 VSS vdacp b4 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=2
x20 VDD D5 VSS vdacp b5 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=1
C3 vdacn2 vdacp cu m=1
x21 VDD D6 VSS vdacn2 b6 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=32
x22 VDD D7 VSS vdacn2 b7 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=16
x23 VDD D8 VSS vdacn2 b8 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=8
x24 VDD D9 VSS vdacn2 b9 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=4
x25 VDD D10 VSS vdacn2 b10 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=2
x26 VDD D11 VSS vdacn2 b11 vcm vinp a_sample a_sample_n b_sample b_sample_n unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u
+ L_N_SPDT=0.13u Cu=cu n=1
C5 vcm vdacn2 cu m=1
x27 VDD b_n_ctrl net3 VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
x28 VDD net3 b_sample_n VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=1
x29 VDD b_ctrl net4 VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
x31 VDD net4 b_sample VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=1
x32 VDD a_n_ctrl net5 VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
x33 VDD net5 a_sample_n VSS inverter_lv W_P=20.0u L_P=0.13u W_N=10.0u L_N=0.13u n=1
x35 VDD a_ctrl net6 VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
x36 VDD net6 a_sample VSS inverter_lv W_P=20.0u L_P=0.13u W_N=10.0u L_N=0.13u n=1
x38 sample_pin net2 VDD VSS b_ctrl sg13g2_nor2_2
x39 net1 sample_pin VDD VSS a_n_ctrl sg13g2_nand2_2
x40 b_ctrl VDD VSS b_n_ctrl sg13g2_inv_2
x41 a_n_ctrl VDD VSS a_ctrl sg13g2_inv_2
x42 a_sample_n net7 VDD VSS net2 sg13g2_nand2_2
x43 b_sample net8 VDD VSS net1 sg13g2_nor2_2
x44 a_sample VDD VSS net7 sg13g2_inv_1
x45 b_sample_n VDD VSS net8 sg13g2_inv_1
**** begin user architecture code

.param ro = 500

**** end user architecture code
.ends


* expanding   symbol:  logic/logic.sym # of pins=31
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/logic/logic.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/logic/logic.sch
.subckt logic b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 comp_in clk rst_pin eoc
*.iopin VDD
*.iopin VSS
*.ipin clk
*.ipin comp_in
*.opin b0
*.opin d0
*.opin b1
*.opin d1
*.opin b2
*.opin d2
*.opin b3
*.opin d3
*.opin b4
*.opin d4
*.opin b5
*.opin d5
*.opin b6
*.opin d6
*.opin b7
*.opin d7
*.opin b8
*.opin d8
*.opin b9
*.opin d9
*.opin b10
*.opin d10
*.opin b11
*.opin d11
*.ipin rst_pin
*.opin eoc
*.opin sample
x1 clk net1 rst comp_in VDD b0 VSS d0 bit_cell
x14 clk d0 rst comp_in VDD b1 VSS d1 bit_cell
x15 clk d1 rst comp_in VDD b2 VSS d2 bit_cell
x16 clk d2 rst comp_in VDD b3 VSS d3 bit_cell
x17 clk d3 rst comp_in VDD b4 VSS d4 bit_cell
x18 clk d4 rst comp_in VDD b5 VSS d5 bit_cell
x19 clk d5 rst comp_in VDD b6 VSS d6 bit_cell
x20 clk d6 rst comp_in VDD b7 VSS d7 bit_cell
x21 clk d7 rst comp_in VDD b8 VSS d8 bit_cell
x22 clk d8 rst comp_in VDD b9 VSS d9 bit_cell
x23 clk d9 rst comp_in VDD b10 VSS d10 bit_cell
x24 clk d10 rst comp_in VDD b11 VSS d11 bit_cell
x3 rst_pin rst_reg VDD VSS rst sg13g2_nor2_2
x4 clk d11 rst VDD VDD eoc VSS smp bit_cell
x5 clk smp rst VDD VDD net2 VSS rst_reg bit_cell
x2 clk VDD rst VDD VDD net3 VSS net1 bit_cell
x6 VDD net4 net5 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x7 VDD net5 sample VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
x8 smp rst_pin VDD VSS net4 sg13g2_or2_2
.ends


* expanding   symbol:  dac_icms_cell/unit_cell_n.sym # of pins=11
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sch
.subckt unit_cell_n VDD d VSS v_top bit v_cm v_in a_sample a_sample_n b_sample b_sample_n  W_P_SPDT=1.0u L_P_SPDT=0.13u
+ W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin v_in
*.ipin d
*.ipin bit
*.iopin v_top
*.iopin v_cm
*.ipin b_sample
*.ipin b_sample_n
*.ipin a_sample
*.ipin a_sample_n
*.iopin VDD
S1 net2 net3 d VSS SW1
C2 net1 v_top Cu m=n
S2 net3 net1 b_sample b_sample_n SW1
S3 v_in net1 b_sample_n b_sample SW1
S4 v_top v_cm a_sample a_sample_n SW1
S5 VDD net2 bit VSS SW1
S6 net2 VSS bitn VSS SW1
S7 net3 v_cm dn VSS SW1
x8 VDD bit bitn VSS inverter_lv W_P=W_P_SPDT L_P=L_P_SPDT W_N=W_N_SPDT L_N=L_N_SPDT n=n
x1 VDD d dn VSS inverter_lv W_P=W_P_SPDT L_P=L_P_SPDT W_N=W_N_SPDT L_N=L_N_SPDT n=n
.ends


* expanding   symbol:  dac_icms_cell/unit_cell.sym # of pins=11
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sch
.subckt unit_cell VDD d VSS v_top bit v_cm v_in a_sample a_sample_n b_sample b_sample_n  W_P_SPDT=1.0u L_P_SPDT=0.13u
+ W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin v_in
*.ipin d
*.ipin bit
*.iopin v_top
*.iopin v_cm
*.ipin b_sample
*.ipin b_sample_n
*.ipin a_sample
*.ipin a_sample_n
*.iopin VDD
S7 net2 net3 d VSS SW1
C1 net1 v_top Cu m=n
S9 net3 net1 b_sample b_sample_n SW1
S10 v_in net1 b_sample_n b_sample SW1
S11 v_top v_cm a_sample a_sample_n SW1
S12 VSS net2 bit VSS SW1
S13 net2 VDD bitn VSS SW1
S14 net3 v_cm dn VSS SW1
x8 VDD bit bitn VSS inverter_lv W_P=W_P_SPDT L_P=L_P_SPDT W_N=W_N_SPDT L_N=L_N_SPDT n=n
x1 VDD d dn VSS inverter_lv W_P=W_P_SPDT L_P=L_P_SPDT W_N=W_N_SPDT L_N=L_N_SPDT n=n
.ends


* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  logic/bit_cell.sym # of pins=8
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/logic/bit_cell.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/logic/bit_cell.sch
.subckt bit_cell clk p_bit_dec reset comp_in VDD bit VSS dec
*.iopin p_bit_dec
*.iopin clk
*.iopin reset
*.iopin comp_in
*.iopin VDD
*.iopin VSS
*.iopin bit
*.iopin dec
x1 VDD net2 net4 VSS net5 net1 SR_latch W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
x23 net6 n_dec VDD VSS net1 sg13g2_and2_1
x14 n_dec comp_in VDD VSS net2 sg13g2_and2_1
x30 comp_in VDD VSS net6 sg13g2_inv_2
x53 clk p_bit_dec net3 n_dec reset VDD VSS sg13g2_dfrbp_1
* noconn #net4
x2 VDD net5 net7 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x3 VDD net3 net8 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x4 VDD net8 dec VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
x5 VDD net7 bit VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
.ends


* expanding   symbol:  buffer/buffer_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sch
.subckt buffer_lv VDD vin vout VSS  W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
x1 VDD vin net1 VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
x2 VDD net1 vout VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
.ends


* expanding   symbol:  comparator/SR_latch/SR_latch.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sch
.subckt SR_latch VDD S Qn VSS Q R  W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
*.iopin VDD
*.opin Q
*.iopin VSS
*.ipin S
*.ipin R
*.opin Qn
x1 VDD Q R Qn VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
x2 VDD Qn Q S VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
.ends


* expanding   symbol:  comparator/NOR_gate/NOR_gate.sym # of pins=5
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sch
.subckt NOR_gate VDD C A B VSS  W_P=1.0u L_P=0.13u W_N=0.5u L_N=0.13u
*.iopin VDD
*.opin C
*.iopin VSS
*.ipin A
*.ipin B
XM1 C A VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM2 C B VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM3 C B net1 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM4 net1 A VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM5 C A net2 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM6 net2 B VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.9 VH=0.01
+ RON={ro/2} ROFF=10G
**** end user architecture code
.end
